US07612114B2
6-{2-{Isopropyl[4-(2-morpholin-4-ylethoxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[(4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (30 mg) and 2-chloro-1-morpholin-4-ylethanone (19 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (22 mg) was obtained.

reactant | pivalic acid 6-{2-[(4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 30 mg | OC1=CC=C(C(=O)N(C2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C(C)C)C=C1 | C32H37NO5
reactant | 2-chloro-1-morpholin-4-ylethanone | 19 mg | ClCC(=O)N1CCOCC1 | C6H10ClNO2
product | 6-{2-{Isopropyl[4-(2-morpholin-4-ylethoxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 22 mg | C(C)(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)O)CC1=CC=C(C=C1)OCCN1CCOCC1 | C33H42N2O4
